US07678801B2
N-cyclopropyl-4-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzamide
To the compound 4-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzoic acid (28 mg, 0.055 mmol) in DMF (0.5 mL) were added HBTU (25 mg, 0.066 mmol), triethylamine (15.5 uL, 0.11 mmol) and cyclopropylamine (5.71 uL, 0.0825 mmol). The mixture was stirred at rt overnight. Separation by HPLC with TFA, followed by neutralization with SPE amine cartridge afforded the title compound (17.8 mg, 59%). LC-MS m/z 547 (M+H)+.

reactant | 4-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzoic acid | 0.055 mmol, 28 mg | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C2=CC=C(C(=O)O)C=C2)CC | C27H27F2N5O3
reactant | HBTU | 0.066 mmol, 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.11 mmol, 15.5 uL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 0.0825 mmol, 5.71 uL | C1(CC1)N | C3H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-cyclopropyl-4-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzamide | 17.8 mg, 59% | C1(CC1)NC(C1=CC=C(C=C1)C=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F)=O | C30H32F2N6O2
